US07855297B2
By the reaction and treatment in the same manner as in Example 271 using 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.78 g) and 2-(chloromethyl)pyridine hydrochloride (0.49 g) as starting materials, 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-{[1-(2-pyridylmethyl)pyrazol-4-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.74 g) was obtained.

reactant | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride | 0.78 g | Cl.C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C=1C=NC(=CC1)C(C)C
reactant | 2-(chloromethyl)pyridine hydrochloride | 0.49 g | Cl.ClCC1=NC=CC=C1
product | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-{[1-(2-pyridylmethyl)pyrazol-4-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.74 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NN(C1)CC1=NC=CC=C1)C=1C=NC(=CC1)C(C)C | C36H37N5O2
